US07378426B2
3-Bromo-pyridin-2-ylamine (1.00 g, 5.78 mmol) was dissolved in acetic anhydride (12.4 mL). This solution was heated at 100° C. for 16 h and cooled to room temperature. The mixture was concentrated in vacuo, diluted with EtOAc (100 mL) and poured into a mixture of ice and saturated NaHCO3 solution (150 mL). This mixture was then saturated with solid NaHCO3 and extracted with EtOAc (3×150 mL). The combined EtOAc extracts were dried (MgSO4), filtered and concentrated in vacuo to give 1.49 g of N-(3-Bromo-pyridin-2-yl)-acetamide in a quantitative yield. HPLC Rt=1.79 min (YMC S5 ODS column 4.6×50 mm, 10-90% aqueous methanol over 4 minutes containing 0.2% phosphoric acid, 4 mL/min, monitoring at 220 nm) LC/MS: M+H+=215.

reactant | 3-Bromo-pyridin-2-ylamine | 5.78 mmol, 1.00 g | BrC=1C(=NC=CC1)N | C5H5BrN2
reactant | acetic anhydride | 12.4 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-(3-Bromo-pyridin-2-yl)-acetamide | 1.49 g, quantitative yield | BrC=1C(=NC=CC1)NC(C)=O | C7H7BrN2O
